US07087626B2
2-(6-Methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-carboxylic acid
A solution of 2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-carboxylic acid ethyl ester (1.6 g, 5.9 mmol) and 2 N sodium hydroxide (6 mL, 29 mmol) in absolute ethanol (50 mL) is refluxed for 5 h. The mixture is cooled to room temperature and concentrated in vacuo. The residue is suspended in water and acidified to pH 5 with 1 N hydrochloric acid. The aqueous solution is extracted three times with dichloromethane. The organic extracts are combined, dried (sodium sulfate), filtered, and concentrated in vacuo to yield the title compound, 1.4 g (97%), as a white solid.

reactant | 2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-carboxylic acid ethyl ester | 5.9 mmol, 1.6 g | C(C)OC(=O)C1=C2N(N=C1C1=NC(=CC=C1)C)CCC2 | C15H17N3O2
reactant | sodium hydroxide | 29 mmol, 2 N, 6 mL | [OH-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-(6-Methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-carboxylic acid | CC1=CC=CC(=N1)C=1C(=C2N(N1)CCC2)C(=O)O | C13H13N3O2
